US08034812B2
Production of ethyl (6-iodoimidazo[1,2-b]pyridazin-2-yl)carbamate
To a solution of 3-amino-6-iodopyridazine (27.0 g, 122 mmol) in N,N-dimethylacetamide (270 mL) were added ethyl (chloroacetyl)carbamate (32.4 g, 195 mmol) and disodium hydrogenphosphate (43.4 g, 305 mmol), and the mixture was stirred at 110° C. for 3 hr. After cooling the mixture to room temperature, water (810 mL) was added, and the precipitated crystals were filtrated, and washed with acetonitrile and ether to give the title compound (33.0 g, 81%) as a dark brown powder.

reactant | 3-amino-6-iodopyridazine | 122 mmol, 27.0 g | NC=1N=NC(=CC1)I | C4H4IN3
reactant | ethyl (chloroacetyl)carbamate | 195 mmol, 32.4 g | ClCC(=O)NC(OCC)=O | C5H8ClNO3
reactant | disodium hydrogenphosphate | 305 mmol, 43.4 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | water | 810 mL | O | H2O
solvent | N,N-dimethylacetamide | 270 mL | CN(C(C)=O)C | C4H9NO
product | ethyl (6-iodoimidazo[1,2-b]pyridazin-2-yl)carbamate | 33.0 g, 81% | IC=1C=CC=2N(N1)C=C(N2)NC(OCC)=O | C9H9IN4O2
